*
*  release version    : 1.2
*
*  release date       : 03/15/2025
*
*  simulation tool    : synopsys hspice version N-2017.12-SP2
*
*  MOM Capacitor   :
*
*        *-----------------------------------------------------------* 
*        |                 Type                     |   MOM subckt   |
*        *-----------------------------------------------------------* 
*        |                MOM                       |   mom_2t       | 
*        *-----------------------------------------------------------*
*
* (Remark: shielding option: 0=non-shielding, 1=poly-shielding, 2=metal-shielding)
*
*****************************************************************
*                       55nm MOM Capacitor 2t                   *
*****************************************************************
* a=port1, b=port2
.subckt mom_2t a b lf=1u nf=6 bm=1 tm=3 mr=1 mismod_mom=1
* mom capacitor model parameters

.param
+nm='tm-bm+1'
*mismatch parameter
+dc0_mis='1.025*(a11+a12+a13)*sigma_mis_mom*mismod_mom'

+a11='3.45E-7*geo_fac*geo_fac'
+a12='3.105E-6*geo_fac'
+a13= 2.2425E-4

+geo_fac='1/sqrt(lf*nf*mr*nm)'

*****base model parameter*****
+ctc1 = 2.89E-6
+cvc1  = 1.43665E-9            cvc2 = 1.90679E-9
+tcoef = '1.0+ctc1*(temper-25.0)'

+cf = 'max((((((0.207291*nm-4.85047E-2)*lf*1e6+(1.05962E-2*nm-4.827941E-4))*nf-((9.935717E-3*nm+7.69893E-2)*lf*1e6+(1.65152E-3*nm-8.03382E-2)))*(bm==1)+(((0.199407*nm-3.597274E-3)*lf*1e6+(1.34357E-2*nm-0.018116))*nf-((1.965032E-3*nm+0.169599)*lf*1e6+(2.51922E-2*nm-0.306621)))*(bm>1)))*1.04*1e-15,1e-18)'

*equivalent circuit
cab a   b   'mr*cf*(1+dc0_mis)*(1+dmom_mnx)*tcoef*(1.0+v(a,b)*(cvc1+cvc2*v(a,b)))/2'


.ends mom_2t
*****************************************************************

*
*  release version    : 1.0
*
*  release date       : 09/30/2024
*
*  simulation tool    : synopsys hspice version N-2017.12-SP2
*
*  MOM Capacitor   :
*
*        *-----------------------------------------------------------* 
*        |                 Type                     |   MOM subckt   |
*        *-----------------------------------------------------------* 
*        |                MOM                       |   mom_3t       | 
*        *-----------------------------------------------------------*
*
* (Remark: shielding option: 0=non-shielding, 1=poly-shielding, 2=metal-shielding)
*
*****************************************************************
*                       55nm MOM Capacitor 3t                   *
*****************************************************************
* a=port1, b=port2
.subckt mom_3t a b p lf=1u nf=6 bm=1 tm=3 mr=1 mismod_mom=1 shielding=0
* mom capacitor model parameters

.param
+nm='tm-bm+1'
*mismatch parameter
+dc0_mis='1.025*(a11+a12+a13)*sigma_mis_mom*mismod_mom'

+a11='3.45E-7*geo_fac*geo_fac'
+a12='3.105E-6*geo_fac'
+a13= 2.2425E-4

+geo_fac='1/sqrt(lf*nf*mr*nm)'

*****base model parameter*****
+ctc1 = 2.89E-6
+cvc1  = 1.43665E-9            cvc2 = 1.90679E-9
+tcoef = '1.0+ctc1*(temper-25.0)'

+cf = 'max((((((0.207291*nm-4.85047E-2)*lf*1e6+(1.05962E-2*nm-4.827941E-4))*nf-((9.935717E-3*nm+7.69893E-2)*lf*1e6+(1.65152E-3*nm-8.03382E-2)))*(bm==1)+(((0.199407*nm-3.597274E-3)*lf*1e6+(1.34357E-2*nm-0.018116))*nf-((1.965032E-3*nm+0.169599)*lf*1e6+(2.51922E-2*nm-0.306621)))*(bm>1)))*1.04*1e-15,1e-18)'
+Cpara= 'max((((0.00598*pwr(bm,-0.7316))*lf*1e6*nf*((shielding==0)+(4.1*pwr(bm,-0.85))*(shielding==1))+(-0.0037594*bm+0.0273)*lf*1e6*nf*(shielding==2))+0.2)*1E-15,1E-18)'
*equivalent circuit
cab a   b   'mr*cf*(1+dc0_mis)*(1+dmom_mnx)*tcoef*(1.0+v(a,b)*(cvc1+cvc2*v(a,b)))/2'
cap a   p   'Cpara*mr*tcoef*(1.0+v(a,p)*(cvc1+cvc2*v(a,p)))/2'
cbp b   p   'Cpara*mr*tcoef*(1.0+v(b,p)*(cvc1+cvc2*v(b,p)))/2'


.ends mom_3t

