
*
*  release version    : 1.2
*
*  release date       : 03/15/2025
*
*  simulation tool    : synopsys hspice version N-2017.12-SP2
*
* model name         :
*   mosfet varactor  :
*        *-------------------------------------------------------*
*        |   mos varactor subckt   |     1.2v     |     3.3v     |
*        |=======================================================|
*        |        n+/nwell         | var1p2_npd_nw_lp    | var3p3_npd_nw_lp    |
*        *-------------------------------------------------------*
*
* the valid temperature range is from -40c to 125c

**************************
* 55nm 1.2V MOS Varactor * 
************************** 
*This model is empirical model, and is provided for special customer.
* 1=port1, 2=port2
* Area=wwr*llr*nf
.subckt var1p2_npd_nw_lp 1 2 lr=l wr=w nf=finger mismod_var=1 mr=1
* 1.2v mos varactor scalable model parameters

.param
+scalevar=0.9
+llr=lr*scalevar*1.1111
+wwr=wr*scalevar*1.1111
+coeff1     = 'max((-0.58111*(llr*1e6)+1.2615),1)'  
+coeff2     = 'min((0.1249*(llr*1e6)-0.0562),0)'    
+coeff_a1   = 'min(pwr(coeff1*pwr(nf,coeff2),-1),1)'
+coeff3     = 'max((-0.46*(llr*1e6)+1.207),1)'      
+coeff4     = 'min((0.1237*(llr*1e6)-0.05565),0)'   
+coeff_a2   = 'min(pwr(coeff3*pwr(nf,coeff4),-1),1)'
+coeff5     = 'max((-1.2344*(llr*1e6)+1.5555),1)'   
+coeff6     = 'min((1.3667*(llr*1e6)-0.615),0)'     
+coeff_cox1 = 'min(pwr(coeff5*pwr(nf,coeff6),-1),1)'
+Djnw_Area_rf = '(wwr+2*1.2e-7)*(llr*nf+(nf-1)*2e-7+2*2.95e-7)'
+Djnw_PJ_rf   = '(wwr+2*1.2e-7+llr*nf+(nf-1)*2e-7+2*2.95e-7)*2'
+Cgg_A2O    = '(1.7689*(llr*1e6) + 0.83457)*pwr((nf*(wwr*1e6)), (-0.060938*(llr*1e6)*(llr*1e6) + 0.13216*(llr*1e6) + 0.9187))*coeff_a2'
+Cgg_A2L    = '3.1419*pwr((wwr*1e6)*(llr*1e6)*nf,0.9552)'
+Cgg_A2_rf     = 'min(max(Cgg_A2O,cgg_A2L*0.1),cgg_A2L*1.9)'
+Cgg_A1O    = '(12.478*(llr*1e6) + 0.74314)*pwr((nf*(wwr*1e6)),(-0.0072862*(llr*1e6)*(llr*1e6) + 0.02485*(llr*1e6) + 0.98343))*coeff_a1'
+Cgg_A1L    = '13.7*pwr((wwr*1e6)*(llr*1e6)*nf,0.9937)'
+Cgg_A1_rf     = 'min(max(Cgg_A1O,cgg_A1L*0.9),cgg_A1L*1.1)'
+Cgg_x0L    = '-(-0.0214*(llr*1e6)*(llr*1e6) + 0.0636*(llr*1e6) + 0.0613)+(0.017641*log(llr*1e6) - 0.010754)'
+Cgg_x0_rf     = 'min(max(Cgg_x0L,-0.13),-0.06)'
+Cgg_dxL    = '-(( 0.0023421*(llr*1e6)*(llr*1e6) - 0.0037869*(llr*1e6) - 0.00099855)*log((wwr*1e6)*nf)+ (0.000087619*(llr*1e6) + 0.19174))'
+Cgg_dx_rf     = 'min(max(Cgg_dxL,-0.22),-0.15)'

*spice equation***********
+Cgg_A2_sp    = '(((1.6782*(llr*1e6)+0.79398)*pwr((nf*(wwr*1e6)),(-0.000037202*(llr*1e6)*(llr*1e6)+0.0020378*(llr*1e6)+0.9748))))'
+Cgg_A1_sp    = '(13.021*(llr*1e6) +0.15931)*pwr((nf*(wwr*1e6)),(-0.000009953*(llr*1e6)*(llr*1e6) +  0.0005767*(llr*1e6) +0.99354))'
+Cgg_x0_sp    = '-(-0.00006*(llr*1e6)*(llr*1e6) + 0.0028*(llr*1e6) + 0.1052)-0.01'
+Cgg_dx_sp    = '-(( 0.0000071456*(llr*1e6)*(llr*1e6)-0.00030298*(llr*1e6)-0.0020931)*(log((wwr*1e6)*nf)/log(2.71828))+ (0.0000016102*(llr*1e6)+0.19184))'

*+Cgg_A2    ='Cgg_A2_rf*(llr<=1.35e-6) + Cgg_A2_sp*(llr>1.35e-6)'
*+Cgg_A1    ='Cgg_A1_rf*(llr<=1.35e-6) + Cgg_A1_sp*(llr>1.35e-6)'
*+Cgg_x0    ='Cgg_x0_rf*(llr<=1.35e-6) + Cgg_x0_sp*(llr>1.35e-6)'
*+Cgg_dx    ='Cgg_dx_rf*(llr<=1.35e-6) + Cgg_dx_sp*(llr>1.35e-6)'


.param
+A2_tc1=1.17801E-4
+A2_ptc1=-2.62621E-4
+A1_tc1=-7.83557E-5
+x0_tc1=1.86888E-3
+dx_tc1=-3.70895E-4
+v12_tc1=1.15421E-3

+A2_rf_l=0  							A2_rf_w = 2.02E-7				 			A2_rf_p=0 									 A2_rf = 0.745
+A2_sp_l = -4.83074E-8 	  A2_sp_w = 2.65781E-8  				A2_sp_p=1.46441E-13 				 A2_sp = 8.3659E-1
+A1_rf_l=0  							A1_rf_w = 5.25E-8							 A1_rf_p=0									 A1_rf = 0.978
+A1_sp_l = 2.79275E-8  		A1_sp_w = 3.87915E-8					 A1_sp_p=3.81785E-14 				 A1_sp = 8.10707E-1
+x0_rf_l=0  							x0_rf_w = -1.0E-8							 x0_rf_p=0									 x0_rf = 1.248
+x0_sp_l = 2.61795E-8 		x0_sp_w = -3.35313E-8 				x0_sp_p = 1.1703E-14	   	   x0_sp = 7.21482E-1
+dx_rf_l=0  							dx_rf_w=0  										dx_rf_p=0 										dx_rf = 1.0
+dx_sp_l=0  							dx_sp_w=0  										dx_sp_p=0 										dx_sp=9E-1

+Cgg_A2    ='(A2_sp_l/llr+A2_sp_w/wwr+A2_sp_p/wwr/llr*(1+A2_ptc1*(temper-25))+A2_sp)*Cgg_A2_sp*(1+A2_tc1*(temper-25))'
+Cgg_A1    ='(A1_sp_l/llr+A1_sp_w/wwr+A1_sp_p/wwr/llr+A1_sp)*Cgg_A1_sp*(1+A1_tc1*(temper-25))'
+Cgg_x0    ='(x0_sp_l/llr+x0_sp_w/wwr+x0_sp_p/wwr/llr+x0_sp)*Cgg_x0_sp*(1+x0_tc1*(temper-25))'
+Cgg_dx    ='(dx_sp_l/llr+dx_sp_w/wwr+dx_sp_p/wwr/llr+dx_sp)*Cgg_dx_sp*(1+dx_tc1*(temper-25))'

*+Cgg_A2    ='(A2_rf_l/llr+A2_rf_w/wwr+A2_rf_p/wwr/llr+A2_rf)*Cgg_A2_rf*(llr<=1.35e-6) + (A2_sp_l/llr+A2_sp_w/wwr+A2_sp_p/wwr/llr+A2_sp)*Cgg_A2_sp*(llr>1.35e-6)'
*+Cgg_A1    ='(A1_rf_l/llr+A1_rf_w/wwr+A1_rf_p/wwr/llr+A1_rf)*Cgg_A1_rf*(llr<=1.35e-6) + (A1_sp_l/llr+A1_sp_w/wwr+A1_sp_p/wwr/llr+A1_sp)*Cgg_A1_sp*(llr>1.35e-6)'
*+Cgg_x0    ='(x0_rf_l/llr+x0_rf_w/wwr+x0_rf_p/wwr/llr+x0_rf)*Cgg_x0_rf*(llr<=1.35e-6) +(x0_sp_l/llr+x0_sp_w/wwr+x0_sp_p/wwr/llr+x0_sp)*Cgg_x0_sp*(llr>1.35e-6)'
*+Cgg_dx    ='(dx_rf_l/llr+dx_rf_w/wwr+dx_rf_p/wwr/llr+dx_rf)*Cgg_dx_rf*(llr<=1.35e-6) + (dx_sp_l/llr+dx_sp_w/wwr+dx_sp_p/wwr/llr+dx_sp)*Cgg_dx_sp*(llr>1.35e-6)'

****mismatch*******
+dcgg_var1p2_npd_nw_lpmis = 'mismod_var*sigma_mis_var*geo_var'
+geo_var = 'ac0_var1p2_npd_nw_lp/(wr*1.1111*lr*1.1111*mr*nf)+bc0_var1p2_npd_nw_lp/sqrt(wr*1.1111*lr*1.1111*mr*nf)+cc0_var1p2_npd_nw_lp'   

* gate current
+TOX      = '2.6E-09+DTOX_var1p2_npd_nw_lp' 			LLN      = 0.78143     	LWN      = 1           
+WLN      = 1.015           	WWN      = 1           	LINT     = -1.7e-008                
+LL       = 1.2e-014       	LW       = 0      	LWL      = 0       
+WINT     = -3.9e-008       	WL       = 1e-015      	WW       = 8.85e-016      	
+WWL      = -6.4478e-023       	XL       = -1.2e-008  	XW       = -1.3e-008     
+GCARC    = '33*(1+(temper-25)*0.0015)'
+GCEVGC   = 1.6         	GCETC    = 1000 
+GCETE    = 0.4                 GCIE     = 1.5                 
+Weff     = '(wwr+XW-2*(WINT+(WL/pwr(llr,WLN))+(WW/pwr(wwr,WWN))+(WWL/(pwr(llr,WLN)*pwr(wwr,WWN)))))*nf'
+Leff     = 'llr+XL-2*(LINT+(LL/pwr(llr,LLN))+(LW/pwr(wwr,LWN))+(LWL/(pwr(llr,LLN)*pwr(wwr,LWN))))'
GG 1 2   Current='(V(1,2)*pwr(ABS(V(1,2)),GCIE)*(GCARC*Weff*Leff*exp(GCEVGC*V(1,2)-GCETC*pwr(TOX,GCETE))))*2' m=mr
       
* equivalent circuit
Djnw  0   2
+nwdio_rf
+AREA  = Djnw_Area_rf
+PJ    = Djnw_PJ_rf   
+m=mr      
Cgg   1  2  C='max((Cgg_A2+(Cgg_A1-Cgg_A2)/(1+EXP((V(1,2)-Cgg_x0)/(Cgg_dx*(v12_tc1*(temper-25)+1)))))*(1+DCGG_var1p2_npd_nw_lp+dcgg_var1p2_npd_nw_lpmis)*1e-15, 1e-15)' m=mr
*Cgg   1  2  C='max((Cgg_A2+(Cgg_A1-Cgg_A2)/(1+EXP((V(1,2)-Cgg_x0)/(Cgg_dx*(0.00143*(temper-25)+1)))))*(1+DCGG_var1p2_npd_nw_lp+dcgg_var1p2_npd_nw_lpmis)*1e-15, 1e-15)' m=mr
.model nwdio_rf d
+LEVEL    = 3                   JS       = 3.4E-06             
+JSW      = 2.8E-12                                             
+N        = 1.005                                              
+RS       = 2.04E-08            IK       = 1.81E+04                                
+IKR      = 1.67E+05            BV       = 11.05               IBV      = 166.7    
+TRS      = 7.44E-04            EG       = 1.16                TREF     = 25.0     
+XTI      = 3.0                 TLEV     = 1                   TLEVC    = 1        
+CJ       = 0                                             
+CJSW     = 0                                           
+MJ       = 0.38073             PB       = 0.58343                                   
+MJSW     = 0.33957             PHP      = 0.71012                                    
+CTA      = 2.67E-03            CTP      = 9.23E-04             TPB      = 3.16E-03 
+TPHP     = 1.58E-03            FC       = 0                    FCS      = 0        
+AREA     = 6e-9                PJ       = 3.2e-4  

.ends var1p2_npd_nw_lp


**************************
* 55nm 3.3V MOS Varactor * 
************************** 
*This model is empirical model, and is provided for special customer.
* 1=port1, 2=port2
* Area=wwr*llr*nf
.subckt var3p3_npd_nw_lp 1 2 lr=l wr=w nf=finger mismod_var=1 mr=1
* 3.3v mos varactor scalable model parameters

.param
+scalevar=0.9
+llr=lr*scalevar*1.1111
+wwr=wr*scalevar*1.1111
+Djnw_Area_rf = '(wwr*1e6+2*0.12)*(llr*1e6*nf+(nf-1)*0.27+2*0.21+2*0.12)*1e-12'
+Djnw_PJ_rf   = '(wwr*1e6+2*0.12+llr*1e6*nf+(nf-1)*0.27+2*0.21+2*0.12)*2*1e-6'
+cgg_A2O    = '((0.0030854*(llr*1000000) - 0.0049285)*(nf*(wwr*1000000))*(nf*(wwr*1000000))+(0.9955*(llr*1000000) + 0.72)*(nf*(wwr*1000000))+0.45361*(llr*1000000) - 0.52784)*0.95'
+cgg_A2L    = '2.4761*pwr((wwr*1e6)*(llr*1e6)*nf,0.9357)'
+Cgg_A2_rf     = 'min(max(cgg_A2O,cgg_A2L*0.1),cgg_A2L*1.9)'
+cgg_A1O    = '(0.0041207*(llr*1000000) - 0.0064223)*(nf*(wwr*1000000))*(nf*(wwr*1000000))+(5.4167*(llr*1000000) + 0.7522)*(nf*(wwr*1000000))+0.47775*(llr*1000000) - 0.62106'
+cgg_A1L    = '6.5235*pwr((wwr*1e6)*(llr*1e6)*nf,0.9889)'
+Cgg_A1_rf     = 'min(max(cgg_A1O,cgg_A1L*0.9),cgg_A1L*1.1)'
+Cgg_x0L    = '-((-0.0019505*log((llr*1000000)) - 0.0069334)*log(nf*wwr*1e6)+0.3514*pwr((llr*1000000),0.0505))+0.08'
+Cgg_x0_rf     = 'min(max(Cgg_x0L,-0.5),-0.2)'
+Cgg_dxL    = '-((-0.00085976*log((wwr*1000000)*nf) - 0.018029)*(llr*1000000)+(-0.0036124*log((wwr*1000000)*nf) + 0.32333))'
+Cgg_dx_rf     = 'min(max(Cgg_dxL,-0.5),-0.2)'

*spice equation***********
+Cgg_A2_sp    ='(0.965*(llr*1e6) +1.1)*pwr((nf*wwr*1e6), (-0.0000337539*(llr*1e6)*(llr*1e6) + 0.00255*(llr*1e6)+ 0.95))'
+Cgg_A1_sp    = '(5.7539*(llr*1e6) + 0.13586)*(nf*wwr*1e6)+0.0017742*pwr((llr*1e6),-6.8607)'
+Cgg_x0_sp    = '-(-0.0045*(log((llr*1e6)*(wwr*1e6))/log(2.71828))+0.3433)'
+Cgg_dx_sp    = -0.3

*+Cgg_A2    ='Cgg_A2_rf*(llr<=1.35e-6) + Cgg_A2_sp*(llr>1.35e-6)'
*+Cgg_A1    ='Cgg_A1_rf*(llr<=1.35e-6) + Cgg_A1_sp*(llr>1.35e-6)'
*+Cgg_x0    ='Cgg_x0_rf*(llr<=1.35e-6) + Cgg_x0_sp*(llr>1.35e-6)'
*+Cgg_dx    ='Cgg_dx_rf*(llr<=1.35e-6) + Cgg_dx_sp*(llr>1.35e-6)'

.param
+A2_tc1=1.3047E-3
+A2_ptc1=-3E-3
+A1_tc1=-1.22459E-4
+x0_tc1=7.61167E-5
+dx_tc1=-3.94865E-4
+v12_tc1=-4.11536E-4

+A2_rf_l = -5.01332E-8 		A2_rf_w = 2.91098E-7      A2_rf_p = 1.13685E-13				 A2_rf = 8.38817E-1
+A2_sp_l = -6.73199E-8 		A2_sp_w = 5.72657E-8 			A2_sp_p = 1.1643E-13 				 A2_sp = 7.06132E-1
+A1_rf_l = -6.51159E-8    A1_rf_w = 7.28444E-8 			 A1_rf_p = 5.31361E-14				 A1_rf = 8.63673E-1
+A1_sp_l = 5.33467E-8 		A1_sp_w = 3.0213E-8  			A1_sp_p = 7.66531E-14				  A1_sp = 6.93563E-1
+x0_rf_l = 0     					 x0_rf_w = 0  								x0_rf_p = 0  								x0_rf = 1.17857E0
+x0_sp_l = 0  						x0_sp_w = 0 							 x0_sp_p = 0 								 x0_sp = 9.27668E-1
+dx_rf_l = 0   				    dx_rf_w = 0  							dx_rf_p = 0  									dx_rf = 9.44181E-1
+dx_sp_l = 0  						dx_sp_w = 0  							dx_sp_p = 0 									 dx_sp = 9.8799E-1 

+Cgg_A2    ='(A2_sp_l/llr+A2_sp_w/wwr+A2_sp_p/wwr/llr*(1+A2_ptc1*(temper-25))+A2_sp)*Cgg_A2_sp*(1+A2_tc1*(temper-25))'
+Cgg_A1    ='(A1_sp_l/llr+A1_sp_w/wwr+A1_sp_p/wwr/llr+A1_sp)*Cgg_A1_sp*(1+A1_tc1*(temper-25))'
+Cgg_x0    ='(x0_sp_l/llr+x0_sp_w/wwr+x0_sp_p/wwr/llr+x0_sp)*Cgg_x0_sp*(1+x0_tc1*(temper-25))'
+Cgg_dx    ='(dx_sp_l/llr+dx_sp_w/wwr+dx_sp_p/wwr/llr+dx_sp)*Cgg_dx_sp*(1+dx_tc1*(temper-25))'

*+Cgg_A2    ='(A2_rf_l/llr+A2_rf_w/wwr+A2_rf_p/wwr/llr+A2_rf)*Cgg_A2_rf*(llr<=1.35e-6) + (A2_sp_l/llr+A2_sp_w/wwr+A2_sp_p/wwr/llr+A2_sp)*Cgg_A2_sp*(llr>1.35e-6)'
*+Cgg_A1    ='(A1_rf_l/llr+A1_rf_w/wwr+A1_rf_p/wwr/llr+A1_rf)*Cgg_A1_rf*(llr<=1.35e-6) + (A1_sp_l/llr+A1_sp_w/wwr+A1_sp_p/wwr/llr+A1_sp)*Cgg_A1_sp*(llr>1.35e-6)'
*+Cgg_x0    ='(x0_rf_l/llr+x0_rf_w/wwr+x0_rf_p/wwr/llr+x0_rf)*Cgg_x0_rf*(llr<=1.35e-6) +(x0_sp_l/llr+x0_sp_w/wwr+x0_sp_p/wwr/llr+x0_sp)*Cgg_x0_sp*(llr>1.35e-6)'
*+Cgg_dx    ='(dx_rf_l/llr+dx_rf_w/wwr+dx_rf_p/wwr/llr+dx_rf)*Cgg_dx_rf*(llr<=1.35e-6) + (dx_sp_l/llr+dx_sp_w/wwr+dx_sp_p/wwr/llr+dx_sp)*Cgg_dx_sp*(llr>1.35e-6)'

*******mismatch*******
+dcgg_var3p3_npd_nw_lpmis = 'mismod_var*sigma_mis_var*geo_var'
+geo_var = 'ac0_var3p3_npd_nw_lp/(wr*1.1111*lr*1.1111*mr*nf)+bc0_var3p3_npd_nw_lp/sqrt(wr*1.1111*lr*1.1111*mr*nf)+cc0_var3p3_npd_nw_lp'   

* equivalent circuit
Djnw  0   2
+nwdio_rf
+AREA  = Djnw_AREA_rf
+PJ    = Djnw_PJ_rf    
+m=mr     
Cgg   1  2  C='max((Cgg_A2+(Cgg_A1-Cgg_A2)/(1+exp((V(1,2)-Cgg_x0)/(Cgg_dx*(1-0.06816*V(1,2)+0.312403*V(1,2)*V(1,2)+0.010637*V(1,2)*V(1,2)*V(1,2)-0.02437*V(1,2)*V(1,2)*V(1,2)*V(1,2))*(v12_tc1*(temper-25)+1)))))*(1+DCGG_var3p3_npd_nw_lp+dcgg_var3p3_npd_nw_lpmis)*1e-15, 1e-18)'  m=mr    
*Cgg   1  2  C='max((Cgg_A2+(Cgg_A1-Cgg_A2)/(1+exp((V(1,2)-Cgg_x0)/(Cgg_dx*(1-0.06816*V(1,2)+0.312403*V(1,2)*V(1,2)+0.010637*V(1,2)*V(1,2)*V(1,2)-0.02437*V(1,2)*V(1,2)*V(1,2)*V(1,2))*(0.00143*(temper-25)+1)))))*(1+DCGG_var3p3_npd_nw_lp+dcgg_var3p3_npd_nw_lpmis)*1e-15, 1e-18)'  m=mr    

.model nwdio_rf d
+LEVEL    = 3                   JS       = 3.4E-06             
+JSW      = 2.8E-12                                             
+N        = 1.005                                              
+RS       = 2.04E-08            IK       = 1.81E+04                                
+IKR      = 1.67E+05            BV       = 11.05               IBV      = 166.7    
+TRS      = 7.44E-04            EG       = 1.16                TREF     = 25.0     
+XTI      = 3.0                 TLEV     = 1                   TLEVC    = 1        
+CJ       = 0                                             
+CJSW     = 0                                           
+MJ       = 0.38073             PB       = 0.58343                                   
+MJSW     = 0.33957             PHP      = 0.71012                                    
+CTA      = 2.67E-03            CTP      = 9.23E-04             TPB      = 3.16E-03 
+TPHP     = 1.58E-03            FC       = 0                    FCS      = 0      
+AREA     = 6e-9                PJ       = 3.2e-4  

.ends var3p3_npd_nw_lp
